US07432279B2
Methyl 4-(3-cyano-6-(pyridin-3-ylmethylamino)-1,7-naphthyridin-4-ylamino)benzoate
Following the procedure described above in Example 29, 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile (0.200 g, 0.963 mmol) was reacted with methyl 4-aminobenzoate (0.16 g, 1.1 mmol), then with 3-(aminomethyl)pyridine. The crude product was purified by preparative HPLC and lyophilized to give a fluffy, bright yellow solid (9.7 mg, 2.5% yield): 1H NMR (400 MHz, DMSO-D6) δ 3.86 (none, 1 H) 4.55 (d, J=6.1 Hz, 2 H) 7.03 (s, 1 H) 7.20 (d, J=8.1 Hz, 2 H) 7.31 (dd, J=7.6, 5.1 Hz, 1 H) 7.48-7.61 (m, 1 H) 7.71 (d, J=8.1 Hz, 1 H) 7.91 (d, J=8.3 Hz, 2 H) 8.35-8.46 (m, 2 H) 8.56 (s, 1 H) 8.89 (s, 1 H).

reactant | 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile | 0.963 mmol, 0.200 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | methyl 4-aminobenzoate | 1.1 mmol, 0.16 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | Methyl 4-(3-cyano-6-(pyridin-3-ylmethylamino)-1,7-naphthyridin-4-ylamino)benzoate | 9.7 mg, 2.5% yield | C(#N)C=1C=NC2=CN=C(C=C2C1NC1=CC=C(C(=O)OC)C=C1)NCC=1C=NC=CC1 | C23H18N6O2
